US07858621B2
Microwave vial was charged with 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester (100 mg, 0.376 mmol), phenylboronic acid (2 eq), Cs2CO3 (3 eq), Pd(PPh3)2Cl2 (0.08 eq), DME (1 ml), and ethanol (0.25 ml). The vial was irradiated in microwave synthesizer at 140° C. for 20 min. The contents of the vial were filtered through a celite pad, which was washed out thoroughly with methanol. The filtrate was evaporated, and the residue was purified by column chromatography to give 3-(2-phenyl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester (96 mg, 80%).

reactant | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester | 0.376 mmol, 100 mg | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)Cl)=O | C11H9ClF3NO2
reactant | phenylboronic acid | 2 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Cs2CO3 | 3 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DME | 1 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)2Cl2 | 0.08 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethanol | 0.25 ml | C(C)O | C2H6O
product | 3-(2-phenyl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid ethyl ester | 96 mg, 80% | C(C)OC(C=CC=1C(=NC(=CC1)C(F)(F)F)C1=CC=CC=C1)=O | C17H14F3NO2
